US04051177
478 g of 3-nitrobenzoic acid allyl ester are hydrogenated in 2 l of methanol at 110° C and 30-50 bars of H2 in the presence of 60 g of a cobalt sulphide paste which contains 30% of CoS3. The absorption of H2 has ceased in 2 hours. After cooling, 30 g of NaHCO3 are added to the methanol solution which contains the suspended catalyst and the mixture is stirred for 10 minutes and filtered. Distillation gives 366 g of 3-aminobenzoic acid allyl ester, boiling point 0.35 = 135° C; ND20 = 1.5657.

reactant | 3-nitrobenzoic acid allyl ester | 478 g | C(C=C)OC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C10H9NO4
solvent | methanol | 2 l | CO | CH4O
catalyst | cobalt sulphide | 60 g | [Co]=S
product | 3-aminobenzoic acid allyl ester | 366 g | C(C=C)OC(C1=CC(=CC=C1)N)=O | C10H11NO2
